US08119627B2
To a refluxing mixture of iron powder (3.15 g, 56.82 mmol) and ammonium chloride (380 mg, 7.1 mmol) in ethanol (45 mL) and water (8 mL) was added 4-(2-nitrophenylsulfanyl)-pyridine (AMR01105, 2.4 g, 10.33 mmol) and the resulting mixture was stirred at reflux for 2 h. After removal of the solvent, the residue was diluted in aqueous sodium hydrogen carbonate (40 mL) and extracted with DCM (3×20 mL). The organic layer was dried (MgSO4), filtered and evaporated to give 2-(pyridin-4-ylsulfanyl)-phenylamine (1.7 g, 81%) as a yellow solid, mp 103-107° C., which was used in the next step without further purification.

reactant | ammonium chloride | 7.1 mmol, 380 mg | [Cl-].[NH4+]
reactant | 4-(2-nitrophenylsulfanyl)-pyridine | 10.33 mmol, 2.4 g | [N+](=O)([O-])C1=C(C=CC=C1)SC1=CC=NC=C1 | C11H8N2O2S
solvent | ethanol | 45 mL | C(C)O | C2H6O
solvent | water | 8 mL | O | H2O
catalyst | iron | 56.82 mmol, 3.15 g | [Fe] | Fe
product | 2-(pyridin-4-ylsulfanyl)-phenylamine | 1.7 g, 81% | N1=CC=C(C=C1)SC1=C(C=CC=C1)N | C11H10N2S
